US08067426B2
Intermediate 33: 2-(Butyloxy)-8-(methyloxy)-9-[6-(1-piperidinyl)hexyl]-9H-purin-6-amine
Prepared similarly to Intermediate 38 from 2-(butyloxy)-9-(6-chlorohexyl)-8-(methyloxy)-9H-purin-6-amine and piperidine.

reactant | 2-(butyloxy)-9-(6-chlorohexyl)-8-(methyloxy)-9H-purin-6-amine | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCCCCCCl)OC)N | C16H26ClN5O2
reactant | piperidine | N1CCCCC1 | C5H11N
product | 2-(Butyloxy)-8-(methyloxy)-9-[6-(1-piperidinyl)hexyl]-9H-purin-6-amine | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCCCCCN1CCCCC1)OC)N | C21H36N6O2
